* Z:\mnt\spice-netlists\LTC3407-2.asc
L1 N002 OUT1 2.2µ
R1 OUT1 N004 604K
V1 IN 0 3.3
C1 OUT1 0 10µ
R2 N004 0 604K
I1 OUT1 0 800m load
C2 IN 0 10µ
C3 OUT1 N004 22p
L2 N001 OUT2 2.2µ
C4 OUT2 N003 22p
R3 OUT2 N003 887K
R4 N003 0 442K
C5 OUT2 0 10µ
I2 OUT2 0 800m load
XU1 N004 IN IN N002 0 IN N001 MP_01 IN N003 LTC3407-2
.tran 300u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3407-2 - Dual 2.25MHz, 800mA, Synchronous Step-Down Regulator in 3×3 DFN Package\nInput: 3.3V     Output1: 1.2V @ 800mA         Output2: 1.8V @ 800mA
.lib LTC3407-2.sub
.backanno
.end
